US08748440B2
Preparation of 4-tert-butyl-N-{1-[3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-methylbenzenesulfonamide and Related Compounds
To a suspension of the 3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one (50 mg, 0.16 mmol) stirring in 2 mL DCM was added TEA (19 mg, 0.19 mmol) followed by the addition of neat 4-tert-butyl-benzenesulfonyl chloride (37 mg, 0.16 mmol). The reaction was allowed to stir at room temperature for 2 h then treated with PS-tris-amine resin (100 mg). The reaction was allowed to stand for 15 min at room temperature after which the resin was removed by filtration. The filtrate was concentrated under vacuum to afford the crude product. The crude residue was purified by flash chromatography (silica gel, 50% EtOAc/Hex) to afford the desired product as an off-white powder (74 mg, 92% yield). 1H-NMR (CDCl3): δ 8.15 (d, 1H), 7.55 (s, 1H), 7.39 (m, 4H), 7.25 (d, 1H), 7.16 (m, 2H), 7.09 (m, 1H), 6.70 (m, 2H), 4.90 (q, 1H), 4.83 (s, 3H), 3.11 (s, 3H), 1.22 (d, 3H), 1.09 (s, 9H); MS (ESI) 506 (MH+).

reactant | 3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | 0.16 mmol, 50 mg | COC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)NC | C18H19N3O2
reactant | 4-tert-butyl-benzenesulfonyl chloride | 0.16 mmol, 37 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | tris-amine | 100 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-tert-butyl-N-{1-[3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-methylbenzenesulfonamide | 74 mg, 92% yield | C(C)(C)(C)C1=CC(=C(C=C1)S(=O)(=O)NC(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OC)=O)C | C28H31N3O4S
